US08912176B2
Preparation of 1-cyclobutyl-4-{[1-(piperidin-1-ylcarbonyl)azetidin-3-yl]carbonyl}-1,4-diazepane. Potency Range A
To a stirred 0° C. solution of 1-(azetidin-3-ylcarbonyl)-4-cyclobutyl-1,4-diazepane (20 mg, 0.084 mmol) in DCM (1 ml) and TEA (0.023 ml, 0.17 mmol) was added dropwise piperidine-1-carbonyl chloride (14.9 mg, 0.013 ml, 0.10 mmol). The reaction was stirred for 1 h and then allowed to warm to RT and the progress monitored by LCMS. After 1 h the reaction was quenched with water (5 ml), extracted with DCM (2×10 ml), dried (MgSO4), filtered and concentrated at reduced pressure. Purification by silica FCC (eluting with 99:1 to 96:4 gradient of DCM/2M NH3 in MeOH) provided impure title compound (22 mg, 78%) as brown oil. Re-purification by preparative HPLC provided the title compound (3 mg, 10% yield) as a colourless oil.

reactant | 1-(azetidin-3-ylcarbonyl)-4-cyclobutyl-1,4-diazepane | 0.084 mmol, 20 mg | N1CC(C1)C(=O)N1CCN(CCC1)C1CCC1 | C13H23N3O
reactant | piperidine-1-carbonyl chloride | 0.10 mmol, 0.013 ml, 14.9 mg | N1(CCCCC1)C(=O)Cl | C6H10ClNO
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 1-cyclobutyl-4-{[1-(piperidin-1-ylcarbonyl)azetidin-3-yl]carbonyl}-1,4-diazepane | 22 mg, 78% | C1(CCC1)N1CCN(CCC1)C(=O)C1CN(C1)C(=O)N1CCCCC1 | C19H32N4O2
